US07834018B2
(2) Synthesis of 6-((4-(2-fluoro-3-(trifluoromethyl)benzoyl)-6-hydroxy-1,4-diazepan-1-yl)methyl)-N-1H-pyrazol-3-ylpyrazin-2-amine
The amidation reaction was performed in the same manner as in Example 3-(2) using 6-((6-(tetrahydro-2H-pyran-2-yloxy)-1,4-diazepan-1-yl)methyl)-N-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazol-3-yl)pyrazin-2-amine and 2-fluoro-3-(trifluoromethyl)benzoic acid. Next, the deprotection reaction was performed in the same manner as in Example 16-(4) using trifluoroacetic acid to give the title compound.

reactant | 6-((6-(tetrahydro-2H-pyran-2-yloxy)-1,4-diazepan-1-yl)methyl)-N-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazol-3-yl)pyrazin-2-amine | O1C(CCCC1)OC1CNCCN(C1)CC1=CN=CC(=N1)NC1=NN(C=C1)COCC[Si](C)(C)C | C24H41N7O3Si
reactant | 2-fluoro-3-(trifluoromethyl)benzoic acid | FC1=C(C(=O)O)C=CC=C1C(F)(F)F | C8H4F4O2
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 6-((4-(2-fluoro-3-(trifluoromethyl)benzoyl)-6-hydroxy-1,4-diazepan-1-yl)methyl)-N-1H-pyrazol-3-ylpyrazin-2-amine | FC1=C(C(=O)N2CCN(CC(C2)O)CC2=CN=CC(=N2)NC2=NNC=C2)C=CC=C1C(F)(F)F | C21H21F4N7O2
